US06509349B1
4-Chloro-3-methoxy-2-(cyclopropyl)-methyl pyridine
Cyclopropyl bromide (0.5 ml) is dissolved in 5 mnl of THF and magnesium (0.15 g) is added and heat is applied to initiate the reaction. Once the reaction is completed, the solution is cooled to −45° C. and cuprous iodide (0.5 g) is added. The reaction is allowed to stir for 30 minutes and 4-Chloro-3-methoxy-2-bromomethyl-pyridine (0.154 g) is added. The reaction is stirred at −45° C. for one hour and allowed to warm at room temperature before being quenched by 5 ml of 28% ammonium hydroxide. The reaction is extracted with ether and the desired product purified by chromatography using hexane/ethyl acetate 9/1 as solvent.

reactant | Cyclopropyl bromide | 0.5 ml | C1(CC1)Br | C3H5Br
reactant | magnesium | 0.15 g | [Mg] | Mg
reactant | 4-Chloro-3-methoxy-2-bromomethyl-pyridine | 0.154 g | ClC1=C(C(=NC=C1)CBr)OC | C7H7BrClNO
reactant | THF | C1CCOC1 | C4H8O
product | 4-Chloro-3-methoxy-2-(cyclopropyl)-methyl pyridine | ClC1=C(C(=NC=C1C)C1CC1)OC | C10H12ClNO
